US08648208B2
(1) Methyl 3-methylbenzothiophene-2-carboxylate
To a suspension of 55% sodium hydride (390 mg, 9.69 mmol) in THF (7 mL)-DMSO (20 mL) was added methyl thioglycolate (0.64 ml) under N2 atmosphere. After ceasing of bubbling, the mixture was stirred for 15 minutes at room temperature, to which was added slowly a solution of 2-fluoroacetophenone (0.89 mL, 6.46 mmol) in DMSO (5 mL). The mixture was stirred at room temperature for 1 hour, diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was recrystallized from ethyl acetate/hexane to give the titled compound as a white crystal (533 mg, 36%).

reactant | sodium hydride | 9.69 mmol, 390 mg | [H-].[Na+]
reactant | methyl thioglycolate | 0.64 ml | C(CS)(=O)OC | C3H6O2S
reactant | 2-fluoroacetophenone | 6.46 mmol, 0.89 mL | FCC(=O)C1=CC=CC=C1 | C8H7FO
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | Methyl 3-methylbenzothiophene-2-carboxylate | 533 mg, 36% | CC1=C(SC2=C1C=CC=C2)C(=O)OC | C11H10O2S
